US04780480
6-Methoxy-7-benzoylbenzofuran-5-ylacetic acid (5.0 g) was heated at reflux in a mixture of acetic acid (50 ml) and 48% hydrobromic acid (50 ml). After the reaction was completed, approximately 1 hour, the cooled solution was added to 400 ml of water which was then extracted with ethyl acetate. The combined organic extracts were washed four times with water, dried with sodium sulfate and evaporated to give 6-hydroxy-7-benzoylbenzofuran-5-ylacetic acid.

reactant | 6-Methoxy-7-benzoylbenzofuran-5-ylacetic acid | 5.0 g | COC1=C(C2=C(C=CO2)C=C1CC(=O)O)C(C1=CC=CC=C1)=O | C18H14O5
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 6-hydroxy-7-benzoylbenzofuran-5-ylacetic acid | OC1=C(C2=C(C=CO2)C=C1CC(=O)O)C(C1=CC=CC=C1)=O | C17H12O5
